US06359009B1
Preparation of 2-(Isopropylthio)-2-methylpropionic acid
A mixture of ethyl 2-(isopropylthio)-2-methylpropionate (5.4 g, 30 mmol) and potassium hydroxide (5.0 g, 90 mmol) in ethanol is refluxed for 6 hours, cooled, and concentrated in vacuo to obtain a residue. The residue is diluted with water, washed with ether, acidified with hydrochloric acid, and extracted with ether. The combined organic extracts are washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a solid. The solid is washed with chloroform and dried under reduced pressure to give the title product as a solid, mp 51.5-52.5° C.

reactant | ethyl 2-(isopropylthio)-2-methylpropionate | 30 mmol, 5.4 g | C(C)(C)SC(C(=O)OCC)(C)C | C9H18O2S
reactant | potassium hydroxide | 90 mmol, 5.0 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(Isopropylthio)-2-methylpropionic acid | C(C)(C)SC(C(=O)O)(C)C | C7H14O2S
